US09212182B2
A 20-mL vial was charged with 1-(5,6-dichloro-2-methoxypyridin-3-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (200 mg, 0.428 mmol), cyclopropyl boronic acid (66.2 μl, 0.856 mmol), and (1,1′-bis(diphenylphosphino)ferrocene)dichloropalladium(II) (62.6 mg, 0.086 mmol) then purged with nitrogen. The reaction vessel was then sequentially charged with dioxane (3.2 mL) and an aqueous solution of sodium carbonate (1.1 mL, 1.9 M) via syringe. The vial was sealed with a PTFE line cap and the resultant red reaction mixture was heated to 50° C. After 12 h, the reaction mixture was allowed to cool to ambient temperature and an aqueous solution of 1.0 N HCL (5 mL) was added and the mixture diluted with EtOAc (5 mL). The layers were separated and the aqueous layer was extracted with EtOAc (3×5 mL). The combined organic layers were washed with brine (25 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure to furnish a brown oil, which was dissolved in DMSO (2 mL) filtered through a 0.2 micron filter and purified by reverse-phase HPLC (Waters XBridge Prep Shield RP18 10 μm OBD 19×100 mm) gradient, 20 to 75% MeCN in water (containing 0.1% trifluoroacetic acid as an additive), flow rate 40 mL/min to afford 1-(5-chloro-6-cyclopropyl-2-methoxy-3-pyridinyl)-N-3-isoxazolyl-2-oxo-1,2-dihydro-6-quinolinesulfonamide (85 mg, 0.180 mmol, 42.0% yield) as a white amorphous solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.23 (d, J=1.76 Hz, 1 H) 8.13 (d, J=1.97 Hz, 1 H) 7.74-7.80 (m, 2 H) 7.46 (s, 1 H) 6.82 (d, J=9.64 Hz, 1 H) 6.75 (d, J=9.02 Hz, 1 H) 6.56 (d, J=1.66 Hz, 1 H) 3.76 (s, 3 H) 2.41-2.61 (m, 1 H) 1.14-1.23 (m, 2 H) 1.09 (dd, J=8.09, 3.21 Hz, 2 H). m/z (ESI) 473.0 (M+H)+.

reactant | 1-(5,6-dichloro-2-methoxypyridin-3-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.428 mmol, 200 mg | ClC=1C=C(C(=NC1Cl)OC)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O | C18H12Cl2N4O5S
reactant | cyclopropyl boronic acid | 0.856 mmol, 66.2 μl | C1(CC1)B(O)O | C3H7BO2
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 1-(5-chloro-6-cyclopropyl-2-methoxy-3-pyridinyl)-N-3-isoxazolyl-2-oxo-1,2-dihydro-6-quinolinesulfonamide | 0.180 mmol, 85 mg, 42.0% yield | ClC=1C=C(C(=NC1C1CC1)OC)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O | C21H17ClN4O5S
